US04686221
1-Hydroxypiperazine dihydrochloride (3.94 g) (which is prepared in Preparation 1), triethylamine (21 ml) and dimethylsulfoxide (30 ml) are added to 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (4.07 g), which is prepared according to the procedure described in Japanese Patent First Publication No. 30964/1981, and the mixture is heated at 100° C. for 30 minutes. After cooling to room temperature, water (200 ml) is added to the mixture and the pH is adjusted to 7.0 with dil. HCl. The precipitated crystals are filtered, washed with water and dried. The product is recrystallized from a mixture of dimethylformamide and water to yield 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid (4.3 g) as pale yellow needles, m.p. 253°-260° C. (decomposed with foaming) (which starts to color brown at around 234° C.).

reactant | 1-Hydroxypiperazine dihydrochloride | 3.94 g | Cl.Cl.ON1CCNCC1
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.07 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | HCl | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid | 4.3 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)O)F)=O)C(=O)O | C16H17F2N3O4
